US06586644B2
A flask is charged with zinc triflate (545 mg, 3 mol % based on the aldehyde compound mentioned blow). Vacuum (0.5 hPa or lower) is applied and the flask is heated to 125° C. for 2 hours. The flask is cooled to 23° C., the vacuum released and (+)-N-methylephedrine (296 mg, 3.3 mol % based on the aldehyde compound mentioned below) is added. Vacuum (0.5 hpa or lower) is applied for 0.5 hour and then released. To the flask, triethylamine (607 mg, 12 mol % based on the aldehyde compound mentioned below) and 2-(1,1-dimethyl-prop-2-ynyloxy)-tetrahydropyran as the alkyne compound (55 mmol, 110 mol % based on the aldehyde compound mentioned below) are added, and stirred for 0.25 hour at 25-30° C. And then cyclohexanecarboxaldehyde (50 mmol) as the aldehyde compound is added. The reaction mixture is stirred at 50° C. for 20 hours. Then, the distillation under reduced pressure gives (R)-1-cyclohexyl-4-methyl-4-tetrahydropyranyloxy-2-pentyn-1-ol, bp 130° C. (0.04 hPa), a colorless oil, in 82% yield.

reactant | (+)-N-methylephedrine | C[C@H]([C@H](C1=CC=CC=C1)O)N(C)C | C11H17NO
reactant | 2-(1,1-dimethyl-prop-2-ynyloxy)-tetrahydropyran | CC(C#C)(OC1OCCCC1)C | C10H16O2
reactant | cyclohexanecarboxaldehyde | 50 mmol | C1(CCCCC1)C=O | C7H12O
catalyst | zinc triflate | [O-]S(=O)(=O)C(F)(F)F.[Zn+2].[O-]S(=O)(=O)C(F)(F)F
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (R)-1-cyclohexyl-4-methyl-4-tetrahydropyranyloxy-2-pentyn-1-ol | 82% yield | C1(CCCCC1)[C@H](C#CC(C)(OC1OCCCC1)C)O | C17H28O3
